US09056859B2
1-{4-[2-(3-Nitrophenyl)ethyl]piperazin-1-yl}-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone was prepared from 1-(2-bromoethyl)-3-nitrobenzene and 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-ylphenyl]ethanone in an analogous fashion to that described for the synthesis of 1-{8-[2-(4-nitrophenyl)ethyl]-3,8-diazabicyclo[3.2.1]oct-3-yl}-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone. LC/MS: [(M+1)]+=422.

reactant | 1-(2-bromoethyl)-3-nitrobenzene | BrCCC1=CC(=CC=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 1-{8-[2-(4-nitrophenyl)ethyl]-3,8-diazabicyclo[3.2.1]oct-3-yl}-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone | [N+](=O)([O-])C1=CC=C(C=C1)CCN1C2CN(CC1CC2)C(CC2=CC=C(C=C2)N2N=NN=C2)=O | C23H25N7O3
product | 1-{4-[2-(3-Nitrophenyl)ethyl]piperazin-1-yl}-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone | [N+](=O)([O-])C=1C=C(C=CC1)CCN1CCN(CC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O | C21H23N7O3
